* c:\fossee\esim\library\subcircuitlibrary\asynch_counter_sub\asynch_counter_sub.cir

* u4  net-_u10-pad1_ net-_u1-pad2_ net-_u10-pad3_ net-_u10-pad4_ net-_u3-pad4_ net-_u4-pad6_ d_tff
* u6  net-_u10-pad1_ net-_u4-pad6_ net-_u10-pad3_ net-_u10-pad4_ ? net-_u6-pad6_ d_tff
* u8  net-_u10-pad1_ net-_u6-pad6_ net-_u10-pad3_ net-_u10-pad4_ ? net-_u10-pad2_ d_tff
* u10  net-_u10-pad1_ net-_u10-pad2_ net-_u10-pad3_ net-_u10-pad4_ net-_u10-pad5_ net-_u10-pad6_ d_tff
* u12  net-_u10-pad1_ net-_u10-pad6_ net-_u10-pad3_ net-_u10-pad4_ net-_u12-pad5_ net-_u12-pad6_ d_tff
* u14  net-_u10-pad1_ net-_u12-pad6_ net-_u10-pad3_ net-_u10-pad4_ net-_u14-pad5_ net-_u14-pad6_ d_tff
* u16  net-_u10-pad1_ net-_u14-pad6_ net-_u10-pad3_ net-_u10-pad4_ net-_u16-pad5_ net-_u16-pad6_ d_tff
* u5  net-_u10-pad1_ net-_u16-pad6_ net-_u10-pad3_ net-_u10-pad4_ net-_u3-pad5_ net-_u5-pad6_ d_tff
* u7  net-_u10-pad1_ net-_u5-pad6_ net-_u10-pad3_ net-_u10-pad4_ net-_u3-pad6_ net-_u7-pad6_ d_tff
* u9  net-_u10-pad1_ net-_u7-pad6_ net-_u10-pad3_ net-_u10-pad4_ net-_u3-pad7_ net-_u11-pad2_ d_tff
* u11  net-_u10-pad1_ net-_u11-pad2_ net-_u10-pad3_ net-_u10-pad4_ net-_u11-pad5_ net-_u11-pad6_ d_tff
* u13  net-_u10-pad1_ net-_u11-pad6_ net-_u10-pad3_ net-_u10-pad4_ net-_u13-pad5_ net-_u13-pad6_ d_tff
* u15  net-_u10-pad1_ net-_u13-pad6_ net-_u10-pad3_ net-_u10-pad4_ net-_u15-pad5_ net-_u15-pad6_ d_tff
* u17  net-_u10-pad1_ net-_u15-pad6_ net-_u10-pad3_ net-_u10-pad4_ net-_u17-pad5_ ? d_tff
* u3  net-_u10-pad3_ net-_u1-pad1_ net-_u10-pad4_ net-_u3-pad4_ net-_u3-pad5_ net-_u3-pad6_ net-_u3-pad7_ net-_u10-pad5_ net-_u11-pad5_ net-_u12-pad5_ net-_u13-pad5_ net-_u14-pad5_ net-_u15-pad5_ net-_u16-pad5_ net-_u17-pad5_ port
* u1  net-_u1-pad1_ net-_u1-pad2_ d_inverter
* u2  net-_u2-pad1_ net-_u10-pad1_ adc_bridge_1
v1  net-_u2-pad1_ gnd 5
a1 net-_u10-pad1_ net-_u1-pad2_ net-_u10-pad3_ net-_u10-pad4_ net-_u3-pad4_ net-_u4-pad6_ u4
a2 net-_u10-pad1_ net-_u4-pad6_ net-_u10-pad3_ net-_u10-pad4_ ? net-_u6-pad6_ u6
a3 net-_u10-pad1_ net-_u6-pad6_ net-_u10-pad3_ net-_u10-pad4_ ? net-_u10-pad2_ u8
a4 net-_u10-pad1_ net-_u10-pad2_ net-_u10-pad3_ net-_u10-pad4_ net-_u10-pad5_ net-_u10-pad6_ u10
a5 net-_u10-pad1_ net-_u10-pad6_ net-_u10-pad3_ net-_u10-pad4_ net-_u12-pad5_ net-_u12-pad6_ u12
a6 net-_u10-pad1_ net-_u12-pad6_ net-_u10-pad3_ net-_u10-pad4_ net-_u14-pad5_ net-_u14-pad6_ u14
a7 net-_u10-pad1_ net-_u14-pad6_ net-_u10-pad3_ net-_u10-pad4_ net-_u16-pad5_ net-_u16-pad6_ u16
a8 net-_u10-pad1_ net-_u16-pad6_ net-_u10-pad3_ net-_u10-pad4_ net-_u3-pad5_ net-_u5-pad6_ u5
a9 net-_u10-pad1_ net-_u5-pad6_ net-_u10-pad3_ net-_u10-pad4_ net-_u3-pad6_ net-_u7-pad6_ u7
a10 net-_u10-pad1_ net-_u7-pad6_ net-_u10-pad3_ net-_u10-pad4_ net-_u3-pad7_ net-_u11-pad2_ u9
a11 net-_u10-pad1_ net-_u11-pad2_ net-_u10-pad3_ net-_u10-pad4_ net-_u11-pad5_ net-_u11-pad6_ u11
a12 net-_u10-pad1_ net-_u11-pad6_ net-_u10-pad3_ net-_u10-pad4_ net-_u13-pad5_ net-_u13-pad6_ u13
a13 net-_u10-pad1_ net-_u13-pad6_ net-_u10-pad3_ net-_u10-pad4_ net-_u15-pad5_ net-_u15-pad6_ u15
a14 net-_u10-pad1_ net-_u15-pad6_ net-_u10-pad3_ net-_u10-pad4_ net-_u17-pad5_ ? u17
a15 net-_u1-pad1_ net-_u1-pad2_ u1
a16 [net-_u2-pad1_ ] [net-_u10-pad1_ ] u2
* Schematic Name:                             d_tff, NgSpice Name: d_tff
.model u4 d_tff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 t_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_tff, NgSpice Name: d_tff
.model u6 d_tff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 t_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_tff, NgSpice Name: d_tff
.model u8 d_tff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 t_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_tff, NgSpice Name: d_tff
.model u10 d_tff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 t_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_tff, NgSpice Name: d_tff
.model u12 d_tff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 t_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_tff, NgSpice Name: d_tff
.model u14 d_tff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 t_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_tff, NgSpice Name: d_tff
.model u16 d_tff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 t_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_tff, NgSpice Name: d_tff
.model u5 d_tff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 t_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_tff, NgSpice Name: d_tff
.model u7 d_tff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 t_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_tff, NgSpice Name: d_tff
.model u9 d_tff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 t_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_tff, NgSpice Name: d_tff
.model u11 d_tff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 t_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_tff, NgSpice Name: d_tff
.model u13 d_tff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 t_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_tff, NgSpice Name: d_tff
.model u15 d_tff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 t_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_tff, NgSpice Name: d_tff
.model u17 d_tff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 t_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u1 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u2 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
