* Subcircuit CA3240_IC
.subckt CA3240_IC net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ 
* c:\fossee\esim\library\subcircuitlibrary\ca3240_ic\ca3240_ic.cir
.include CA3240_OP.sub
x1 net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad5_ net-_u1-pad4_ CA3240_OP
x2 net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad5_ net-_u1-pad4_ CA3240_OP
* Control Statements

.ends CA3240_IC