* C:\FOSSEE\eSim\library\SubcircuitLibrary\CA3240_OP\CA3240_OP.cir

* EESchema Netlist Version 1.1 (Spice format) creation date: 05/18/24 17:23:22

* To exclude a component from the Spice Netlist add [Spice_Netlist_Enabled] user FIELD set to: N
* To reorder the component spice node sequence add [Spice_Node_Sequence] user FIELD and define sequence: 2,1,0

* Sheet Name: /
D1  Net-_D1-Pad1_ Net-_D1-Pad2_ eSim_Diode		
Q6  Net-_Q6-Pad1_ Net-_D1-Pad2_ Net-_D1-Pad1_ eSim_PNP		
Q3  Net-_M1-Pad3_ Net-_Q1-Pad1_ Net-_D1-Pad2_ eSim_PNP		
Q7  Net-_M2-Pad3_ Net-_Q1-Pad1_ Net-_Q6-Pad1_ eSim_PNP		
Q1  Net-_Q1-Pad1_ Net-_D1-Pad2_ Net-_D1-Pad1_ eSim_PNP		
Q8  Net-_Q13-Pad1_ Net-_D1-Pad2_ Net-_D1-Pad1_ eSim_PNP		
Q9  Net-_C1-Pad1_ Net-_Q1-Pad1_ Net-_Q13-Pad1_ eSim_PNP		
Q2  Net-_Q1-Pad1_ Net-_M1-Pad3_ Net-_Q2-Pad3_ eSim_NPN		
R1  Net-_Q2-Pad3_ Net-_D2-Pad2_ 8000		
D2  Net-_D2-Pad1_ Net-_D2-Pad2_ eSim_Diode		
U1  Net-_U1-PadIN_ Net-_M2-Pad2_ zener		
U3  Net-_U1-PadIN_ Net-_M3-Pad2_ zener		
U2  Net-_U1-PadIN_ Net-_M2-Pad3_ zener		
M2  Net-_M2-Pad1_ Net-_M2-Pad2_ Net-_M2-Pad3_ Net-_M2-Pad3_ mosfet_p		
M3  Net-_M3-Pad1_ Net-_M3-Pad2_ Net-_M2-Pad3_ Net-_M2-Pad3_ mosfet_p		
M1  Net-_D2-Pad1_ Net-_D2-Pad2_ Net-_M1-Pad3_ Net-_M1-Pad3_ mosfet_p		
R2  Net-_M2-Pad1_ Net-_Q4-Pad1_ 500		
R4  Net-_M3-Pad1_ Net-_C1-Pad2_ 500		
Q4  Net-_Q4-Pad1_ Net-_M2-Pad1_ Net-_Q4-Pad3_ eSim_NPN		
Q5  Net-_C1-Pad2_ Net-_M2-Pad1_ Net-_Q5-Pad3_ eSim_NPN		
R3  Net-_Q4-Pad3_ Net-_D2-Pad2_ 500		
R5  Net-_Q5-Pad3_ Net-_D2-Pad2_ 500		
Q10  Net-_C1-Pad1_ Net-_C1-Pad2_ Net-_D2-Pad2_ eSim_NPN		
C1  Net-_C1-Pad1_ Net-_C1-Pad2_ 12p		
Q11  Net-_D1-Pad1_ Net-_C1-Pad1_ Net-_Q11-Pad3_ eSim_NPN		
Q13  Net-_Q13-Pad1_ Net-_Q13-Pad2_ Net-_Q13-Pad3_ eSim_NPN		
R7  Net-_Q14-Pad2_ Net-_Q11-Pad3_ 1000		
Q14  Net-_Q13-Pad3_ Net-_Q14-Pad2_ Net-_M4-Pad2_ eSim_NPN		
Q12  Net-_Q11-Pad3_ Net-_D2-Pad1_ Net-_Q12-Pad3_ eSim_NPN		
Q15  Net-_M4-Pad2_ Net-_D2-Pad1_ Net-_D2-Pad2_ eSim_NPN		
R6  Net-_Q12-Pad3_ Net-_D2-Pad2_ 50		
Q16  Net-_M4-Pad2_ Net-_D4-Pad1_ Net-_D2-Pad2_ eSim_NPN		
D4  Net-_D4-Pad1_ Net-_D4-Pad2_ eSim_Diode		
R12  Net-_D4-Pad2_ Net-_D2-Pad2_ 30		
R8  Net-_R10-Pad2_ Net-_Q13-Pad2_ 1000		
R10  Net-_Q13-Pad3_ Net-_R10-Pad2_ 20		
R9  Net-_R10-Pad2_ Net-_D3-Pad2_ 50		
D3  Net-_D1-Pad1_ Net-_D3-Pad2_ eSim_Diode		
Q17  Net-_D1-Pad1_ Net-_Q17-Pad2_ Net-_Q17-Pad3_ eSim_NPN		
R11  Net-_M4-Pad3_ Net-_Q17-Pad3_ 12000		
R13  Net-_Q17-Pad2_ Net-_D1-Pad1_ 15000		
R14  Net-_D2-Pad2_ Net-_R14-Pad2_ 20000		
M4  Net-_D4-Pad1_ Net-_M4-Pad2_ Net-_M4-Pad3_ Net-_M4-Pad3_ mosfet_p		
U4  Net-_R14-Pad2_ Net-_Q17-Pad2_ zener		
U5  Net-_M4-Pad2_ Net-_M2-Pad2_ Net-_M3-Pad2_ Net-_D2-Pad2_ Net-_D1-Pad1_ PORT		

.end
