* c:\users\aditya\esim-workspace\cd4027b_ic\cd4027b_ic.cir

.include CD4027B_IC.sub
v1  j1 gnd pulse(5 5 0 1u 1u 5m 5m)
v2  clk gnd pulse(0 5 0 1u 1u 5m 10m)
v4  k1 gnd pulse(5 5 0 1u 1u 5m 5m)
v6  k2 gnd pulse(5 5 0 1u 1u 5m 5m)
v5  j2 gnd pulse(5 5 0 1u 1u 5m 5m)
r1  q2 gnd 1000k
r2  qb1 gnd 1000k
v3 net-_x1-pad16_ gnd  dc 5
x1 q2 qb2 qb1 gnd k2 j2 gnd gnd gnd j1 k1 gnd clk qb1 q1 net-_x1-pad16_ CD4027B_IC
r4  qb2 gnd 1000k
r3  gnd q1 1000k
.tran 0.01e-03 60e-03 0e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
